US07842696B2
DIPEA (216 mg, 0.3 mL, 1.6 mmol) was added to a stirred solution of [(biphenyl-4-carbonyl)-methyl-amino]-acetic acid (100 mg, 0.37 mmol) in DMF (3 mL). HOBT (55.2 mg, 0.4 mmol) and EDCI (178 mg, 0.92 mmol) were then added at room temperature. After 2 minutes piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride salt (131 mg, 0.44 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and filtered the solid precipitated out to afford 135 mg (71.3% yield) of biphenyl-4-carboxylic acid methyl-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 96.56%. 1H NMR (DMSO-d6): δ 7.9-7.6 (m, 7H), 7.6-7.45 (q, 4H), δ 7.45-7.3 (q, 2H), 4.5-4.2 (m, 2H), 4.15 (s, 1H), 3.8-3.5 (m, 4H), 3.5-3.4 (m, 2H), 3.25-3.1 (m, 2H), 3.0 (s, 3H).

reactant | DIPEA | 1.6 mmol, 0.3 mL, 216 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | [(biphenyl-4-carbonyl)-methyl-amino]-acetic acid | 0.37 mmol, 100 mg | C1(=CC=C(C=C1)C(=O)N(C)CC(=O)O)C1=CC=CC=C1 | C16H15NO3
reactant | HOBT | 0.4 mmol, 55.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.92 mmol, 178 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride salt | 0.44 mmol, 131 mg | Cl.N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | biphenyl-4-carboxylic acid methyl-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 135 mg, 71.3% yield | CN(C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CC(N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C28H26F3N3O3
